US07700628B2
Preparation of 2-[4-[3-(tert-Butoxycarbonylamino)pyrrolidin-1-yl]-2-(1-tert-butoxy-carbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide
Using methods substantially equivalent to those described in Example 4-F except that saturated aqueous citric acid was used instead of water in the workup, 2-[4-[3-(tert-butoxycarbonylamino)pyrrolidin-1-yl]-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-benzoylamino]-N-(5-chloropyridin-2-yl)benzamide (234 mg, 0.32 mmol, 44%) was prepared from 2-[4-fluoro-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide and 3-tert-butoxycarbonylaminopyrrolidine.

reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | 2-[4-[3-(tert-butoxycarbonylamino)pyrrolidin-1-yl]-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | 0.32 mmol, 234 mg | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C38H47ClN6O7
reactant | 2-[4-fluoro-2-(1-tert-butoxycarbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | FC1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C29H30ClFN4O5
reactant | 3-tert-butoxycarbonylaminopyrrolidine | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
product | 2-[4-[3-(tert-Butoxycarbonylamino)pyrrolidin-1-yl]-2-(1-tert-butoxy-carbonylpiperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)benzamide | C(C)(C)(C)OC(=O)NC1CN(CC1)C1=CC(=C(C(=O)NC2=C(C(=O)NC3=NC=C(C=C3)Cl)C=CC=C2)C=C1)OC1CC(N(CC1)OC(C)(C)C)=C=O | C38H45ClN6O7
